US08664288B2
1,3-Dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 2)
To a solution of methylethylketone oxime (4.6 g, 0.053 mol) in dry THF (30 ml) is added finely powdered NaOH (0.15 g) and dicyclohexylcarbodiimide (10.3 g, 0.05 mol). The mixture is then stirred 5 h at room temperature under argon. The turbid mixture is thereafter filtered and evaporated under reduced pressure. The residue is stirred 10 minutes with acetonitrile (30 ml), the acetonitrile phase is then discarded, the oily residue is dissolved in dichloromethane (30 ml), filtered and evaporated to afford 11.24 g of the title compound as a slightly yellow liquid.

reactant | methylethylketone oxime | 0.053 mol, 4.6 g | CC(CC)=NO | C4H9NO
reactant | dicyclohexylcarbodiimide | 0.05 mol, 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
catalyst | NaOH | 0.15 g | [OH-].[Na+]
product | 1,3-Dicyclohexyl-O—(N-2-butylideneamino)-isourea | 11.24 g | C1(CCCCC1)NC(ON=C(C)CC)=NC1CCCCC1 | C17H31N3O
